US05635477
N-(BOC)-8-aminomethyl-2-naphthoic acid (14)
Part D--A solution of 8-aminomethyl-2-naphthoic acid (0.50 g, 0.00025 mol) and triethylamine (0.038 mL, 0.028 g, 0.000275 mol) in aqueous tetrahydrofuran (50%, 5 mL) was added, portionwise as a solid, 2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitrile (0.068 g, 0.000275 mol). All was stirred at ambient temperature over 5 hours. The solution was concentrated to half volume and extracted with diethylether. The aqueous layer was then acidified to a pH of 1.0 using hydrochloric acid (1N) and then extracted with ethyl acetate. The combined organic layers were dried over anhydrous magnesium sulfate and evaporated to dryness under reduced pressure to give the title compound, N-(BOC)-8-aminomethyl-2-naphthoic acid (0.050 g, 0.00017 mol) as a white solid. mp=190°-191° C.; 1H NMR (DMSO) d 13.1 (bs, 1H), 8.8 (s, 1H), 8.0 (q, 2H, J=7.9 Hz), 7.9 (d, 1H, J=8.1 Hz), 7.6 (t, 1H, J=7.5 Hz), 7.65-7.55 (m, 2H), 4.6 (d, 2H, J=5.5 Hz), 1.4 (s, 9H).

reactant | 8-aminomethyl-2-naphthoic acid | 0.00025 mol, 0.50 g | NCC=1C=CC=C2C=CC(=CC12)C(=O)O | C12H11NO2
reactant | triethylamine | 0.000275 mol, 0.038 mL, 0.028 g | C(C)N(CC)CC | C6H15N
reactant | 2-(tert-butoxycarbonyloxyimino)-2-phenylacetonitrile | 0.000275 mol, 0.068 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-(BOC)-8-aminomethyl-2-naphthoic acid | 0.00017 mol, 0.050 g | C(=O)(OC(C)(C)C)NCC=1C=CC=C2C=CC(=CC12)C(=O)O | C17H19NO4
